US09388161B2
n-Butyllithium (1.6 M in THF, 6.3 mL, 10.1 mmol) was added dropwise to a −78° C. solution of 2,4-dibromothiazole (2.00 g, 8.30 mmol) in tetrahydrofuran (50 mL), and the mixture stirred at −78° C. for 1 h. A solution of tert-butyl 3-oxoazetidine-1-carboxylate (2.83 g, 16.55 mmol) in tetrahydrofuran (5 mL) was added, and the resulting mixture stirred for 1 h at room temperature. The reaction mixture was poured into saturated aqueous ammonium chloride solution (50 mL) and extracted with dichloromethane (3×50 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 20% with ethyl acetate/petroleum ether) to afford tert-butyl 3-(4-bromothiazol-2-yl)-3-hydroxyazetidine-1-carboxylate (0.890 g, 32%) as a white solid. MS (ESI, pos. ion) m/z 335, 337 [M+H]+.

reactant | n-Butyllithium | 10.1 mmol, 1.6 M, 6.3 mL | C(CCC)[Li]
reactant | 2,4-dibromothiazole | 8.30 mmol, 2.00 g | BrC=1SC=C(N1)Br | C3HBr2NS
reactant | tert-butyl 3-oxoazetidine-1-carboxylate | 16.55 mmol, 2.83 g | O=C1CN(C1)C(=O)OC(C)(C)C | C8H13NO3
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | tert-butyl 3-(4-bromothiazol-2-yl)-3-hydroxyazetidine-1-carboxylate | 0.890 g, 32% | BrC=1N=C(SC1)C1(CN(C1)C(=O)OC(C)(C)C)O | C11H15BrN2O3S
